US07727988B2
5-(3-pyridazinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E66).
5-(3-pyridazinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione was dissolved in MeOH and treated with 4N HCl in dioxane solution (2 eq). The solvent was evaporated and the residue triturated with diethyl ether to afford 31 mg of the title compound.

reactant | 5-(3-pyridazinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | N1=NC(=CC=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C23H22F3N5O2
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 2 eq | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
product | 5-(3-pyridazinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | 31 mg | Cl.Cl.N1=NC(=CC=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C23H22F3N5O2.2ClH/c24-23(25,26)16-6-4-15(5-7-16)22-11-17(22)12-30(14-22)9-2-10-31-13-18(20(32)28-21(31)33)19-3-1-8-27-29-19;;/h1,3-8,13,17H,2,9-12,14H2,(H,28,32,33);2*1H/t17-,22+;;/m0../s1
